US07893056B2
2-Ethyl-5-fluoro-4-hydrazino-6-(4-methyl-1-piperazinyl)pyrimidine
To an ice-cold solution of 1,4-dioxane (10 mL) and MeOH (2 mL) was added 4,6-dichloro-2-ethyl-5-fluoropyrimidine (1.0 g, 5.13 mmol), N-methylpiperazine (626 uL, 5.64 mmol) and DIPEA (1.97 mL, 12.4 mmol) sequentially. The solution was then stirred at room temperature for 2 h. After the reaction was complete, anhydrous hydrazine (1.29 mL, 99 mmol) was added. The resulting suspension was heated at 90° C. in a oil bath for 2 h until the intermediate was consumed. Evaporation of the solvent gave a light yellow solid. The solid was dissolved in CH2Cl2 (100 mL) and washed with 1 N HCl. The aqueous phase was back-extracted with DCM (50 mL). The combined organic layers were dried over anhydrous Na2SO4. Evaporation of the solvent gave a light yellow residue as the desired product (890 mg, 69%).

reactant | 4,6-dichloro-2-ethyl-5-fluoropyrimidine | 5.13 mmol, 1.0 g | ClC1=NC(=NC(=C1F)Cl)CC | C6H5Cl2FN2
reactant | N-methylpiperazine | 5.64 mmol, 626 uL | CN1CCNCC1 | C5H12N2
reactant | DIPEA | 12.4 mmol, 1.97 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | hydrazine | 99 mmol, 1.29 mL | NN | H4N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mL | CO | CH4O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-Ethyl-5-fluoro-4-hydrazino-6-(4-methyl-1-piperazinyl)pyrimidine | 890 mg, 69% | C(C)C1=NC(=C(C(=N1)NN)F)N1CCN(CC1)C | C11H19FN6
